US07816554B2
This example is particularly relevant to the arrangement of FIG. 2. A butane oxidation reactor (not shown) produces 100 moles per hour of maleic anhydride, of which 40 kmols are condensed by cooling the gases in condensers (not shown). The remaining 60 moles per hour are recovered as a 50 wt % aqueous solution of maleic acid from an absorber (2) in line (5). This is fed to an evaporator system (6) and the maleic acid is concentrated (line 5a/37) and mixed together with the crude maleic anhydride from the partial condensers (line 8′) to form a 95 wt % solution of maleic acid. The aqueous maleic acid feed is mixed with recycled methanol from the refining section (line 38/16a′) and fed to a plug flow, mono-ester reactor (36), where more than 80% of the maleic acid is converted to mono-methyl maleate. The product from this is fed to a reaction column (19′) to react the mono-methyl maleate with methanol to produce di-methyl maleate. 540 mols per hour of methanol (lines 42 and 41) are fed to the bottom of the reaction column (19′). Di-methyl maleate (line 26′) is fed to hydrogenation (20). Recycle methanol from the refining section is fed to the top of the reaction column as wash (line 16b′) to minimise the di-methyl maleate and maleic acid in the overhead of the column. Methanol and water from the overhead (line 31′) of the reaction column is fed to the methanol column (25′) where the methanol is separated and recycled to the reaction column (line 39). Water and a small amount of recovered maleic acid and di-methyl maleate from the bottom of the methanol column are recycled to absorber (2) in line 3′.

reactant | maleic acid | C(\C=C/C(=O)O)(=O)O | C4H4O4
reactant | mono-methyl maleate | C(\C=C/C(=O)[O-])(=O)OC
solvent | methanol | CO | CH4O
product | di-methyl maleate | C(\C=C/C(=O)OC)(=O)OC | C6H8O4
